US07786308B2
Diisopropylamine (1.54 g, 15 mmol) was dissolved in THF (50 mL) and then the mixture was cooled to −78° C. n-Butyl lithium (6.1 mL, 2.5 M in hexane) was added dropwise at −78° C. After addition, the reaction mixture was stirred for 30 min at −78° C. Ethyl 1-benzyl-4-(N-phenylacetamido)piperidine-4-carboxylate (2.9 g, 7.6 mmol) was added dropwise at −78° C. The mixture was continued to stir for 1 h at −78° C. The reaction was quenched by dropwise addition of water (10 mL) at −78° C. and then allowed to warm to room temperature. The organic layer was separated. The aqueous phase was acidified to pH 6-7 with acetic acid and extracted with EtOAc (3×20 mL). The combined organics were washed with brine, dried over Na2SO4 and evaporated under vacuum to give crude product as a solid, which was washed with ether to give 8-benzyl-1-phenyl-1,8-diazaspiro[4.5]decane-2,4-dione. 1H NMR (300 MHz, MeOD) δ 7.12-7.47 (m, 15H), 4.04 (s, 2H), 3.65-3.66 (m, 2H), 3.51-3.57 (m, 1H), 3.02-3.06 (m, 2H), 2.66-2.73 (m, 2H), 1.93-2.00 (m, 5H), 1.82-1.87 (m, 1H).

reactant | Diisopropylamine | 15 mmol, 1.54 g | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyl lithium | 2.5 M, 6.1 mL | C(CCC)[Li]
reactant | Ethyl 1-benzyl-4-(N-phenylacetamido)piperidine-4-carboxylate | 7.6 mmol, 2.9 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)N(C(C)=O)C1=CC=CC=C1 | C23H28N2O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 8-benzyl-1-phenyl-1,8-diazaspiro[4.5]decane-2,4-dione | C(C1=CC=CC=C1)N1CCC2(C(CC(N2C2=CC=CC=C2)=O)=O)CC1 | C21H22N2O2
